US07696223B2
c) {[3-Chloro-7-cyano-1-(3,4-difluoro-benzyl)-4-hydroxy-1H-pyrrolo[2,3-c]pyridine-5-carbonyl]-amino}-acetic acid
Prepared in analogy to that of Example 1(e) from 4-acetoxy-3-chloro-7-cyano-1-(3,4-difluoro-benzyl)-1H-pyrrolo[2,3-c]pyridine-5-carboxylic acid ethyl ester, glycine and NaOMe/HOMe. The title compound, ESI MS (m/z): 421 (M+H)+.

reactant | 4-acetoxy-3-chloro-7-cyano-1-(3,4-difluoro-benzyl)-1H-pyrrolo[2,3-c]pyridine-5-carboxylic acid ethyl ester | C(C)OC(=O)C=1C(=C2C(=C(N1)C#N)N(C=C2Cl)CC2=CC(=C(C=C2)F)F)OC(C)=O | C20H14ClF2N3O4
reactant | glycine | NCC(=O)O | C2H5NO2
reactant | NaOMe HOMe | C[O-].[Na+].CO
product | {[3-Chloro-7-cyano-1-(3,4-difluoro-benzyl)-4-hydroxy-1H-pyrrolo[2,3-c]pyridine-5-carbonyl]-amino}-acetic acid | ClC1=CN(C2=C(N=C(C(=C21)O)C(=O)NCC(=O)O)C#N)CC2=CC(=C(C=C2)F)F | C18H11ClF2N4O4
